US05691335
Three grams (15 mmol) of methyl 4-chlorophenylaminoacetate were dissolved in 40 ml of benzene, and 2.2 ml (15 mmol) of 4-chlorobenzenesulfonyl isocyanate were added to the resultant solution, followed by stirring for 1 hour. Crystals formed were collected by filtration to obtain N-(4-chlorobenzenesulfonyl)-N'-(4-chlorophenyl)-N'-methoxycarbonylmethylurea (6.1 g) as white crystals.

reactant | methyl 4-chlorophenylaminoacetate | 15 mmol, Three grams | ClC1=CC=C(C=C1)NCC(=O)OC | C9H10ClNO2
reactant | 4-chlorobenzenesulfonyl isocyanate | 15 mmol, 2.2 ml | ClC1=CC=C(C=C1)S(=O)(=O)N=C=O | C7H4ClNO3S
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | N-(4-chlorobenzenesulfonyl)-N'-(4-chlorophenyl)-N'-methoxycarbonylmethylurea | 6.1 g | ClC1=CC=C(C=C1)S(=O)(=O)NC(=O)N(CC(=O)OC)C1=CC=C(C=C1)Cl | C16H14Cl2N2O5S
